US06310056B1
5-formylaminomethyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
A solution of 9 06 mg of 5-formylaminomethyl imidazo[5,1-b]-thiazole in a mixed solvent of 30 ml of THF and 6 ml of HMPA was cooled to −78° C. under the atmosphere of argon, and 10.9 ml of a 1.6 N solution of n-butyl lithium/n-hexane was added dropwise at an internal temperature of −70-−65° C. After the reaction mixture was stirred at the same temperature for 1 hour, 1.63 ml of tri-n-butylstannyl chloride was added, and the mixture was further stirred at the same temperature for 1 hour and for 2 hours during which the temperature was raised up to 0° C. 100 ml of a semi-saturated aqueous ammonium chloride solution was added to the reaction mixture, and extracted with 100 ml of diethyl ether. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography on silica gel (hexane:ethyl acetate=1:2) to give the title compound in an amount of 1.59 g.

reactant | 5-formylaminomethyl imidazo[5,1-b]-thiazole | C(=O)NCC1=NC=C2SC=CN21 | C7H7N3OS
reactant | n-butyl lithium n-hexane | C(CCC)[Li].CCCCCC
reactant | tri-n-butylstannyl chloride | 1.63 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | HMPA | 6 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 5-formylaminomethyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | C(=O)NCC1=NC=C2SC(=CN21)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C7H6N3OS.3C4H9.Sn/c11-5-8-3-6-9-4-7-10(6)1-2-12-7;3*1-3-4-2;/h1,4-5H,3H2,(H,8,11);3*1,3-4H2,2H3;
